### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): reflecting and preserving local injectivity and surjectivity

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR proves that precomposition with a cocontinuous functor preserves local injectivity and surjectivity of morphisms of presheaves, and that precomposition with a cover preserving and cover dense functor reflects the same properties.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/PreservesLocallyBijective.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+    refine K.superset_covering (Sieve.functorPushforward_monotone H _ ?_)
+      (hH.cover_preserve <| equalizerSieve_mem J (whiskerLeft H.op f)
+        ((forget A).map (F.map map.op) a) ((forget A).map (F.map map.op) b) ?_)
+    · intro W q hq
+      simpa using hq
+    · simp only [comp_obj, op_obj, whiskerLeft_app, Opposite.op_unop]
+      erw [NatTrans.naturality_apply, NatTrans.naturality_apply, h]
+
+lemma isLocallyInjective_iff_whisker (hH : CoverPreserving J K H) [H.IsCocontinuous J K]
+    [H.IsCoverDense K] : IsLocallyInjective K f ↔ IsLocallyInjective J (whiskerLeft H.op f) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/PreservesLocallyBijective.lean:50]: I would suggest changing the direction of the two `iff` lemmas.

File: Mathlib/CategoryTheory/Sites/PreservesLocallyBijective.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+    intro W q ⟨x, h⟩
+    simp only [Sieve.functorPullback_apply, Presieve.functorPullback_mem, Sieve.pullback_apply]
+    exact ⟨x, by simpa using h⟩
+
+lemma isLocallySurjective_iff_whisker (hH : CoverPreserving J K H) [H.IsCocontinuous J K]
+    [H.IsCoverDense K] : IsLocallySurjective K f ↔ IsLocallySurjective J (whiskerLeft H.op f) :=
+  ⟨fun _ ↦ isLocallySurjective_whisker J K H f,
+    fun _ ↦ isLocallySurjective_of_whisker J K H f hH⟩
+
+end Presheaf
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/PreservesLocallyBijective.lean:78]:
```suggestion
end Presheaf

end CategoryTheory
```

**Comment by joelriou** [comment]
Thanks!

bors merge
